US08609653B2
To a solution of ethyl 1-(2,3-difluorobenzyl)-4-hydroxy-6-methyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (9.9 g, 27.0 mmol) in benzene (150 mL) was added manganese dioxide (13.81 g, 135 mmol) (activated 85%, 5 micron) and the mixture was heated to 80° C. under nitrogen atmosphere for 3.5 h. The mixture was filtered hot through celite washing with EtOAc (250 mL) and the filtrate was concentrated, dried in vacuo to provide ethyl 1-(2,3-difluorobenzyl)-4-hydroxy-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (9.0 g, 23.39 mmol, 87% yield) as greyish solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.47 (t, J=7.12 Hz, 3 H), 2.84 (s, 3 H), 4.47 (q, J=7.02 Hz, 2 H), 5.51 (s, 2 H), 6.64 (d, J=3.32 Hz, 1 H), 6.79-6.90 (m, 1 H), 6.92-7.03 (m, 2 H), 7.08 (q, J=8.32 Hz, 1 H), 12.78 (s, 1H); LCMS (m/z) ES+=347 (M+1).

reactant | ethyl 1-(2,3-difluorobenzyl)-4-hydroxy-6-methyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 27.0 mmol, 9.9 g | FC1=C(CN2CCC=3C2=NC(=C(C3O)C(=O)OCC)C)C=CC=C1F | C18H18F2N2O3
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
catalyst | manganese dioxide | 135 mmol, 13.81 g | [O-2].[O-2].[Mn+4]
product | ethyl 1-(2,3-difluorobenzyl)-4-hydroxy-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 23.39 mmol, 9.0 g, 87% yield | FC1=C(CN2C=CC=3C2=NC(=C(C3O)C(=O)OCC)C)C=CC=C1F | C18H16F2N2O3
